US07105516B2
trans-2-(5-Cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid methoxy-methyl-amide
A solution of cis-2-(5-cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid ethyl ester (1.06 g, 3.75 mMol) and lithium hydroxide monohydrate (1.54 g, 37.5 mMol) in ethanol (50 mL) and water (10 mL) was heated to reflux for 3 h. The solution was concentrated in vacuo, and the residue was dissolved in water (20 mL) and HCl was added to pH<2. The reaction was extracted with ethyl acetate (4×10 mL), dried with magnesium sulfate, and evaporated in vacuo. The residue was suspended in methylene chloride with triethylamine (2.62 mL, 18.8 mMol). To this was added N,O-dimethylhydroxylamine hydrochloride (733 mg, 7.5 mMol) and EDC hydrochloride (1.58 g, 8.26 mMol) and the reaction was stirred for 2 h. Water (20 mL) was added and the reaction was extracted with methylene chloride (10 mL). The organic layers were dried with magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel with ethyl acetate/hexanes (60%) to provide the product as a clear oil (460 mg, 41%). 1H NMR (400 MHz, CDCl3) δ 8.36 (1H, bs), 8.01 (1H, s), 7.28–7.41 (2H, m), 7.13 (1H, d, J=1.9 Hz), 3.74 (1H, m), 3.38 (3H, s), 3.38 (1H, buried), 3.11 (3H, s), 1.84–2.32 (5H, m), 1.37 (1H, sextet, J=7.6 Hz); MS m/e 320.2 (M+Na).

reactant | cis-2-(5-cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid ethyl ester | 3.75 mMol, 1.06 g | C(C)OC(=O)[C@H]1[C@H](CCC1)C1=CNC2=CC=C(C=C12)C#N | C17H18N2O2
reactant | lithium hydroxide monohydrate | 37.5 mMol, 1.54 g | O.[OH-].[Li+]
reactant | triethylamine | 18.8 mMol, 2.62 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 7.5 mMol, 733 mg | Cl.CNOC
reactant | EDC hydrochloride | 8.26 mMol, 1.58 g | CCN=C=NCCCN(C)C.Cl
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | 20 mL | O | H2O
product | trans-2-(5-Cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid methoxy-methyl-amide | 460 mg, 41% | CON(C(=O)[C@H]1[C@@H](CCC1)C1=CNC2=CC=C(C=C12)C#N)C | C17H19N3O2
